US08030337B2
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}cyclopropanecarboxamide
N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (100 mg, 0.369 mmol) was dissolved in pyridine (4 mL), cyclopropylcarbonyl chloride (36.8 μL, 0.406 mmol) was added under ice-cooling, and the mixture was stirred for 3 hr. Water was added to the reaction solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→95/5) to give the title compound (119 mg, yield 100%).

reactant | N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.369 mmol, 100 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
reactant | cyclopropylcarbonyl chloride | 0.406 mmol, 36.8 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Water | O | H2O
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}cyclopropanecarboxamide | 119 mg, yield 100% | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(=O)C1CC1 | C17H22N2O3
